US06191166B1
(S)-2-(tert-Butoxycarbonylamino)-2-(6-methoxy-2-naphthyl)acetic acid was then converted into the methyl ester using General Procedure G below. The methyl ester was then dissolved in CH2Cl2 and this solution cooled to 0° C. Trifluoroacetic acid (50 molar eq.) was added and the reaction was allowed to warm to room temperature and stirring was continued for 2 hrs. The reaction mixture was then concentrated and the residue extracted into CH2Cl2 and washed with sodium bicarbonate solution. The organic layer was dried over Na2SO4, filtered and concentrated to yield methyl (S)-2-amino-2-(6-methoxy-2-naphthyl)acetate.

reactant | (S)-2-(tert-Butoxycarbonylamino)-2-(6-methoxy-2-naphthyl)acetic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C18H21NO5
reactant | Trifluoroacetic acid | 50 molar | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl (S)-2-amino-2-(6-methoxy-2-naphthyl)acetate | N[C@H](C(=O)OC)C1=CC2=CC=C(C=C2C=C1)OC | C14H15NO3
